US04594409
[Production of N-t-butoxycarbonyl-prolyl-leucyl-glycine]
The thus obtained N-t-butoxycarbonyl-prolylleucyl-glycine methyl ester in an amount of 294.6 g was dissolved in 1.6 l of methanol. To this, 1.6 l of 1N-NaOH was added dropwise with ice cooling and the reaction was carried out at room temperature for 2 hours. Subsequently, 20% citric acid was added dropwise to the reaction mixture to make the pH 3 to 4. Then, the whole reaction mixture was extracted with 5 l of ethyl acetate, and the extract was washed well with 5% citric acid solution and saturated sodium chloride aqueous solution, and dried. After removing the solvent by distillation, a white solid was obtained. The resulting solid of N-t-butoxycarbonyl-prolyl-leucyl-glycine was purified by washing with petroleum ether. Yield: 269.3 g (94.7%). Melting point 87°-90° C. [α]D20 =-80.5° (C=1, ethanol). Rf =0.46 (TLC, chloroform: methanol: acetic acid =95:5:3 by volume).

reactant | N-t-butoxycarbonyl-prolylleucyl-glycine methyl ester | COC(CNC([C@@H](NC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O)CC(C)C)=O)=O | C19H33N3O6
reactant | NaOH | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 1.6 l | CO | CH4O
product | N-t-butoxycarbonyl-prolyl-leucyl-glycine | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)CCC1 | C18H31N3O6
